US06380218B1
4-Aminomethyl-2,6-dimethyl-phenol
A solution of 4-Hydroxy-3,5-dimethyl-benzaldehyde oxime (1.0 grams, 6.06 mmole) in acetic acid (30 ml) and Zn dust (4.0 grams, 61.2 mmole) was stirred at ˜60° C. for 2 hours. The mixture was filtered through celite, basified by aqueous ammonium hydroxide and extracted with chloroform. The combined extracts were dried over MgSO4, filtered, and concentrated to give a foam (0.90 g). MW 151; MS (m/e) 151 (M+).

reactant | 4-Hydroxy-3,5-dimethyl-benzaldehyde oxime | 6.06 mmole, 1.0 grams | OC1=C(C=C(C=NO)C=C1C)C | C9H11NO2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | Zn | 61.2 mmole, 4.0 grams | [Zn] | Zn
product | 4-Aminomethyl-2,6-dimethyl-phenol | 0.90 g | NCC1=CC(=C(C(=C1)C)O)C | C9H13NO
